US05908944
143 mg of CuBr is added to 1.46 g (10 mmol) of cis/trans-benzylideneacetone (3-phenyl-but-3-en-2-one) in 20 ml of absolute dioxane. 11 ml (11 mmol) of a 1 molar solution of trimethyl aluminum in hexane is added to the reaction at room temperature under nitrogen atmosphere and, after completion of the addition, stirred for 10 minutes at 22° C. For hydrolysis of the reaction solution, 1 ml of water dissolved in 5 ml of dioxane is carefully added to the reaction. It is stirred for 10 minutes more and the inorganic precipitate filtered off with dioxane is washed again. The dioxane solution is concentrated by evaporation on a rotary evaporator and the residue is chromatographed on silica gel with ethyl acetate/hexane as eluent. After concentration by evaporation of the fractions, 1.37 g of 4-phenyl-hexan-2-one (78% of theory) is obtained a colorless liquid.

reactant | trans-benzylideneacetone | C(/C1=CC=CC=C1)=C\C(C)=O | C10H10O
reactant | trimethyl aluminum | C[Al](C)C
reactant | water | 1 ml | O | H2O
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-phenyl-hexan-2-one | 1.37 g, 78% | C1(=CC=CC=C1)C(CC(C)=O)CC | C12H16O
